US04189444
Preparation of N,N'-dimethyl 2-naphthaleneethanimidamide hydrochloride
In a 100 ml. reaction vessel, equipped with a stirrer, thermometer, a pressure-equalizing addition funnel, and a reflux condenser fitted with a drying tube, 11.95 grams (0.048 mol.) of ethyl 2-naphthaleneethanimidate hydrochloride was placed. A solution of 21.20 grams (0.683 mol.) of methylamine in 35 ml. of absolute ethanol was rapidly added to the reaction mixture. The temperature quickly rose to 65° C. and dropped to about 30° C. after all of the solution was added. The reaction mixture was kept between about 50°-53° C. for 21 hours. The reaction mixture was cooled to 2° C. and the white crystalline product was filtered off. The product was washed with toluene and dried to give 10.2 grams (85% yield) of the title compound. The crude product was recrystallized from absolute ethanol to yield 8.97 grams of the title compound. The melting point was 225.5°-227° C.

reactant | ethyl 2-naphthaleneethanimidate hydrochloride | 0.048 mol, 11.95 grams | Cl.C1=C(C=CC2=CC=CC=C12)CC(OCC)=N
reactant | methylamine | 0.683 mol, 21.20 grams | CN | CH5N
reactant | ethanol | C(C)O | C2H6O
product | N,N'-dimethyl 2-naphthaleneethanimidamide hydrochloride | 10.2 grams, 85% yield | Cl.CNC(CC1=CC2=CC=CC=C2C=C1)=NC | InChI=1S/C14H16N2.ClH/c1-15-14(16-2)10-11-7-8-12-5-3-4-6-13(12)9-11;/h3-9H,10H2,1-2H3,(H,15,16);1H
